US07449478B2
A mixture of 2-[1-(3-chloropropyl)-1H-indol-4-yloxy]-2-methylpropionic acid ethyl ester (0.100 g, 0.31 mmol, 1.0 eq), 7-propyl-3-trifluoromethyl-benzo[d]isoxazol-6-ol (0.076 g, 0.31 mmol, 1.0 eq), potassium carbonate (0.064 g, 0.46 mmol, 1.5 eq), potassium iodide (0.010 g, 0.06 mmol, 0.2 eq), and DMF (3 mL) was heated at 110° C. for 1.5 hours. The reaction mixture was cooled to room temperature before 20 mL of water was added. The mixture was then extracted with ethyl acetate (2×20 mL). The organic layer was collected, combined, washed with water (6×20 mL) and brine (2×20 mL), and dried over anhydrous Na2SO4. The solvent was removed in vacuo to give an oily residue, which was purified by filtering through a short silica column using hexane/ethyl acetate (95/5) as an eluant to afford 2-methyl-2-{1-[3-(7-propyl-3-trifluoromethyl-benzo[d]isoxazol-6-yloxy)-propyl]-1H-indol-4-yloxy}-propionic acid ethyl ester (0.140 g, yield: 85%).

reactant | 2-[1-(3-chloropropyl)-1H-indol-4-yloxy]-2-methylpropionic acid ethyl ester | 0.31 mmol, 0.100 g, 1.0 eq | C(C)OC(C(C)(C)OC1=C2C=CN(C2=CC=C1)CCCCl)=O | C17H22ClNO3
reactant | 7-propyl-3-trifluoromethyl-benzo[d]isoxazol-6-ol | 0.31 mmol, 0.076 g, 1.0 eq | C(CC)C1=C(C=CC=2C(=NOC21)C(F)(F)F)O | C11H10F3NO2
reactant | potassium carbonate | 0.46 mmol, 0.064 g, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.06 mmol, 0.010 g, 0.2 eq | [I-].[K+]
solvent | water | 20 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-methyl-2-{1-[3-(7-propyl-3-trifluoromethyl-benzo[d]isoxazol-6-yloxy)-propyl]-1H-indol-4-yloxy}-propionic acid ethyl ester | 0.140 g, yield: 85% | C(C)OC(C(C)(OC1=C2C=CN(C2=CC=C1)CCCOC1=C(C2=C(C(=NO2)C(F)(F)F)C=C1)CCC)C)=O | C28H31F3N2O5
